US05688928
To an ice-cooled, stirred solution of 5-Aminosalicylamide (10.0 grams, 0.073 mol), in 300 mL of water containing NaHCO3 (42.0 grams, 0.5 mol), iodoacetyl chloride (18.4 grams, 0.09 mol) is added dropwise over 15 min. After stirring at 0°-5° C. for 1 hr., the solution is acidified with cold 6N HCl. The precipitate is collected and dried in vacuo over NaOH pellets, to afford 21.3 grams (96% yield) of crude 5-(iodoacetamido)salicylamide.

reactant | 5-Aminosalicylamide | 0.073 mol, 10.0 grams | NC1=CC=C(C(C(=O)N)=C1)O | C7H8N2O2
reactant | NaHCO3 | 0.5 mol, 42.0 grams | C(=O)(O)[O-].[Na+]
reactant | iodoacetyl chloride | 0.09 mol, 18.4 grams | ICC(=O)Cl | C2H2ClIO
reactant | HCl | 6N | Cl | ClH
solvent | water | 300 mL | O | H2O
product | 5-(iodoacetamido)salicylamide | 21.3 grams, 96% yield | ICC(=O)NC1=CC=C(C(C(=O)N)=C1)O | C9H9IN2O3
